US04097587
11.1 g of the 2,4-diethyl-4-methyl-1,5-diazaspiro[5.5]undec-1-ene and 2.5 g of ammonium bromide were dissolved in 70 ml of methanol, and 45 ml of water were added thereto, with stirring. The mixture was then stirred at room temperature for 8 hours. After removing the methanol by evaporation under reduced pressure, the residue was distilled under reduced pressure, giving 7.4 g of 2-ethyl-2,5-dimethyl-1-azaspiro[5.5]undecan-4-one, bp 119° - 122° C/1.5 mmHg.

reactant | 2,4-diethyl-4-methyl-1,5-diazaspiro[5.5]undec-1-ene | 11.1 g | C(C)C1=NC2(NC(C1)(C)CC)CCCCC2 | C14H26N2
reactant | ammonium bromide | 2.5 g | [Br-].[NH4+]
reactant | water | 45 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | 2-ethyl-2,5-dimethyl-1-azaspiro[5.5]undecan-4-one | 7.4 g | C(C)C1(NC2(C(C(C1)=O)C)CCCCC2)C | C14H25NO
